US07947690B2
A mixture of 300 mg of 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-yl 4-nitrophenyl carbonate, 43 mg of 2-(methylamino)ethanol, and 5 ml of DMF was stirred at ambient temperature for 19.5 hours. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture, the mixture was extracted twice with chloroform. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The yellow oil obtained was dissolved in THF, here was added 4M HCl-dioxane solution, and the solution was concentrated under reduced pressure to give solid, which was recrystallized from acetonitrile-ether to yield 120 mg of 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-yl (2-hydroxyethyl)methylcarbamate hydrochloride as colorless solid.

reactant | 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-yl 4-nitrophenyl carbonate | 300 mg | C(OC1CCN(CC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)CS(C2)(=O)=O)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C24H19ClF2N4O7S
reactant | 2-(methylamino)ethanol | 43 mg | CNCCO | C3H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-chloro-2,5-difluorophenyl)-6,6-dioxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl]piperidin-4-yl (2-hydroxyethyl)methylcarbamate hydrochloride | 120 mg | Cl.OCCN(C(OC1CCN(CC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)CS(C2)(=O)=O)=O)C | InChI=1S/C21H23ClF2N4O5S.ClH/c1-27(6-7-29)21(30)33-12-2-4-28(5-3-12)20-14-10-34(31,32)11-18(14)25-19(26-20)13-8-17(24)15(22)9-16(13)23;/h8-9,12,29H,2-7,10-11H2,1H3;1H
